US07635715B2
Step A: Preparation of 1-(bromomethyl)-3-chloro-2-iodobenzene
A mixture of 1-chloro-2-iodo-3-methylbenzene (7.5 g, 30 mmol) in 60 mL CCl4 stirred at 70° C. was treated with 1-bromopyrrolidine-2,5-dione (7.9 g, 45 mmol) and dibenzoyl peroxide (0.72 g, 3.0 mmol) slowly. The mixture was refluxed under a sunlight lamp for 15 hours. The mixture was cooled to room temperature, filtered through a plug of Celite, and rinsed with 10% EtOAc/hexane. The filtrate was concentrated and purified by column chromatography (0-10% EtOAc/hexane) to give 7.1 g pink oil.

reactant | 1-chloro-2-iodo-3-methylbenzene | 30 mmol, 7.5 g | ClC1=C(C(=CC=C1)C)I | C7H6ClI
reactant | 1-bromopyrrolidine-2,5-dione | 45 mmol, 7.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | 3.0 mmol, 0.72 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 60 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(bromomethyl)-3-chloro-2-iodobenzene | 7.1 g | BrCC1=C(C(=CC=C1)Cl)I | C7H5BrClI
